US07420001B2
To 0.13 g of methyl N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)-N-methyl-D-valinate in 12 mL ethyl acetate was added 0.67 g of lithium iodide and the mixture was refluxed overnight. The reaction was diluted with ethyl acetate and 1N HCl. The organic layer was washed with water, sodium thiosulfate solution, water and brine, dried over Na2SO4, filtered, and concentrated to provide 0.099 g of N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)-N-methyl-D-valine. Yield 77.9%. m.p. 239-241° C.; MS 505.1(M−H)−.

reactant | methyl N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)-N-methyl-D-valinate | 0.13 g | O1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N([C@H](C(C)C)C(=O)OC)C | C28H28N2O6S
reactant | lithium iodide | 0.67 g | [I-].[Li+]
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)-N-methyl-D-valine | 0.099 g, Yield 77.9% | O1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N([C@H](C(C)C)C(=O)O)C | C27H26N2O6S
